US06919329B2
Step 1: Preparation of 2-methylpropyl 4-bromophenylcarbamate
A solution of 4-bromoaniline (10.0 g, 58.1 mmol) in tetrahydrofuran (230 mL) is treated with sodium bicarbonate (9.77 g, 116.2 mmol) and water (100 mL) followed by isobutyl chloroformate (8.3 mL, 63.9 mmol), and the mixture is stirred at ambient temperature for 2 h. The mixture is then diluted with water (100 mL) and EtOAc (100 mL), the layers are separated, and the organic phase is washed with water (50 mL) and saline (50 mL), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Recrystallization of the resulting solid from EtOAc/hexanes provides the title compound, mp 95-96° C.; MS (ESI−) for C11H14NO2Br m/z 270 (M−H)−.

reactant | 4-bromoaniline | 58.1 mmol, 10.0 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | sodium bicarbonate | 116.2 mmol, 9.77 g | C([O-])(O)=O.[Na+]
reactant | isobutyl chloroformate | 63.9 mmol, 8.3 mL | ClC(=O)OCC(C)C | C5H9ClO2
solvent | tetrahydrofuran | 230 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | water | 100 mL | O | H2O
product | 2-methylpropyl 4-bromophenylcarbamate | BrC1=CC=C(C=C1)NC(OCC(C)C)=O | C11H14BrNO2
